US06977262B2
To a solution of ethyl isonipecotate (8.9 g) in CH2Cl2 (500 mL) was added triphenyl bismus (25 g) and Copper(II)acetate (10.3 g) at room temperature, the mixture was stirred overnight. After filteration, the mixture was extracted with CH2Cl2. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (10:1)) to give ethyl 1-phenylpiperidine-4-carboxylate (8.6 g) as colorless crystals. To a solution of acetonitrile (1.9 g) in THF (200 mL) was added n-BuLi (41 mmol) at −78° C. Further, ethyl 1-phenylpiperidine-4-carboxylate (8.6 g) was added and the mixture was stirred for an hour. After acidification with hydrochloric acid, the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (10:1)) to give 1-(1-phenylpiperidin-4-yl)-2-cyanoethan-1-one (2.0 g) as colorless crystals. A solution of 2,1,3-benzoxadiazole-4-aldehyde (0.3 g), 3-aminopyrazole (0.2 g) and 1-(1-phenylpiperidin-4-yl)-2-cyanoethan-1-one (0.5 g) in acetonitrile (10 mL) was heated under reflux overnight. The reaction mixture was cooled to room temperature, and the precipitated crystals were collected by filtration to give the title compound (0.6 g) as colorless crystals.

reactant | acetonitrile | 1.9 g | C(C)#N | C2H3N
reactant | n-BuLi | 41 mmol | [Li]CCCC
reactant | ethyl 1-phenylpiperidine-4-carboxylate | 8.6 g | C1(=CC=CC=C1)N1CCC(CC1)C(=O)OCC | C14H19NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(1-phenylpiperidin-4-yl)-2-cyanoethan-1-one | 2.0 g | C1(=CC=CC=C1)N1CCC(CC1)C(CC#N)=O | C14H16N2O
